US06380218B1
2-(3-Acetyl-phenoxy)-N-(4-sulfamoyl-benzyl)-nicotinamide
A solution of 4-Aminomethyl-benzenesulfonamide (0.248 grams, 1.11 mmole), 2-(3-Acetyl-phenoxy)-nicotinic acid (0.300 grams, 1.167 mmole), 1-hydroxybenzotriazole hydrate (0.165 grams, 1.22 mmole) and 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.256 grams, 1.33 mmole) in dimethylformamide (15 ml) was stirred for 10 minutes. To the stirring solution was added triethyl amine (0.280 grams, 2.78 mmole) and stirred over night at room temperature. The mixture was diluted with ethyl acetate and washed with water and brine, dried over MgSO4, filtered and concentrated to give a solid. Recrystalization from ethyl acetate/hexane gave a solid. (0.280 g); M.P.162-164° C.; MS (m/e) 425 (M+).

reactant | 4-Aminomethyl-benzenesulfonamide | 1.11 mmole, 0.248 grams | NCC1=CC=C(C=C1)S(=O)(=O)N | C7H10N2O2S
reactant | 2-(3-Acetyl-phenoxy)-nicotinic acid | 1.167 mmole, 0.300 grams | C(C)(=O)C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C14H11NO4
reactant | 1-hydroxybenzotriazole hydrate | 1.22 mmole, 0.165 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.33 mmole, 0.256 grams | Cl.C(C)N=C=N
reactant | triethyl amine | 2.78 mmole, 0.280 grams | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Acetyl-phenoxy)-N-(4-sulfamoyl-benzyl)-nicotinamide | C(C)(=O)C=1C=C(OC2=C(C(=O)NCC3=CC=C(C=C3)S(N)(=O)=O)C=CC=N2)C=CC1 | C21H19N3O5S
